US07244843B2
Step A. Preparation of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-phenylamino-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one
To a degassed solution of tris(dibenzylideneacetone) dipalladium(0) (7 mg, 0.007 mmol) and 2-(di-tert-butylphosphino)biphenyl (6 mg, 0.021 mmol) in toluene (2 mL) was added N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-bromo-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (50 mg, 0.115 mmol). The mixture was degassed (alternating vacuum and argon) and aniline (0.031 mL, 0.345 mmol) and sodium tert-butoxide (33 mg, 0.345 mmol) were added. The mixture was degassed a final time and then subjected to microwave conditions (150° C., 1800 sec). The mixture was diluted with saturated aqueous sodium chloride and ethyl acetate, and the layers were separated. The aqueous layer was washed with ethyl acetate (×2) and the combined organic layers were dried over sodium sulfate, filtered, and concentrated. The resulting residue was purified by radial chromatography (10–20% ethyl acetate in hexanes) to give 28 mg (55%) of a pale yellow residue. MS (ESI) 448 (M+H).

reactant | 2-(di-tert-butylphosphino)biphenyl | 0.021 mmol, 6 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-bromo-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.115 mmol, 50 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)Br)C(F)(F)F)=O)CC1 | C17H18BrF3N2O3
reactant | aniline | 0.345 mmol, 0.031 mL | NC1=CC=CC=C1 | C6H7N
reactant | sodium tert-butoxide | 0.345 mmol, 33 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.007 mmol, 7 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-phenylamino-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 28 mg, 55% | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)NC2=CC=CC=C2)C(F)(F)F)=O)CC1 | C23H24F3N3O3
